US09302989B2
tert-butyl 4-(4-fluorobenzylamino)butylcarbamate
Tert-butyl 4-bromobutylcarbamate (0.735 g, 2.91 mmoles), (4-fluorophenyl)methanamine (0.333 g, 2.91 mmoles) and potassium carbonate (0.806 g, 5.83 mmoles) were stirred in acetonitrile (15 mL) at 100° C. for 1 hour. The reaction mixture was cooled, the solvent waqs concentrated and the residue was taken into dichloromethane and washed with water twice. The organic layers were combined, dried over magnesium sulfate, filtered and concentrated to provide the title compound which was used without further purification in the next step.

reactant | Tert-butyl 4-bromobutylcarbamate | 2.91 mmoles, 0.735 g | BrCCCCNC(OC(C)(C)C)=O | C9H18BrNO2
reactant | (4-fluorophenyl)methanamine | 2.91 mmoles, 0.333 g | FC1=CC=C(C=C1)CN | C7H8FN
reactant | potassium carbonate | 5.83 mmoles, 0.806 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | tert-butyl 4-(4-fluorobenzylamino)butylcarbamate | FC1=CC=C(CNCCCCNC(OC(C)(C)C)=O)C=C1 | C16H25FN2O2
